.title kicad schematic

.include sn54166_sub.sub
v2 net-_u3-pad1_ gnd  dc 5v
v3 net-_u3-pad3_ gnd  dc 5v
v1 net-_u1-pad1_ gnd pulse(5v 0v 0v 0 1ps 100ms 200ms)
v4 clk gnd pulse(0v 5v 0 1ps 1ps 25ms 50ms)
* u5 gnd net-_u5-pad2_ gnd net-_u5-pad4_ gnd net-_u5-pad6_ net-_u5-pad7_ net-_u5-pad8_ net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ net-_u5-pad14_ adc_bridge_7
* u4 net-_u4-pad1_ out dac_bridge_1
x1 net-_u1-pad2_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ net-_u5-pad8_ net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u4-pad1_ net-_u5-pad12_ net-_u5-pad13_ net-_u5-pad14_ sn54166_sub
v5 net-_u5-pad2_ gnd  dc 5v
v6 net-_u5-pad4_ gnd  dc 5v
v8 net-_u5-pad7_ gnd  dc 5v
v7 net-_u5-pad6_ gnd pulse(5v 5v 0 1ps 1ps 400ms 800ms)
r1 out gnd 1k
* u6 out plot_v1
* u2 clk plot_v1
* u1 net-_u1-pad1_ net-_u1-pad2_ adc_bridge_1
* u3 net-_u3-pad1_ gnd net-_u3-pad3_ gnd gnd clk gnd net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ adc_bridge_7
a1 [gnd net-_u5-pad2_ gnd net-_u5-pad4_ gnd net-_u5-pad6_ net-_u5-pad7_ ] [net-_u5-pad8_ net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ net-_u5-pad14_ ] u5
a2 [net-_u4-pad1_ ] [out ] u4
a3 [net-_u1-pad1_ ] [net-_u1-pad2_ ] u1
a4 [net-_u3-pad1_ gnd net-_u3-pad3_ gnd gnd clk gnd ] [net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u3-pad11_ net-_u3-pad12_ net-_u3-pad13_ net-_u3-pad14_ ] u3
* Schematic Name:                             adc_bridge_7, Ngspice Name: adc_bridge
.model u5 adc_bridge(in_low=0v in_high=5v rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u4 dac_bridge(out_low=0v out_high=5v out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=0v in_high=5v rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_7, Ngspice Name: adc_bridge
.model u3 adc_bridge(in_low=0v in_high=5v rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-03 1200e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(clk)
.endc
.end
